US07589116B2
Step 1: Diethyl-1-(3-bromophenyl)-1H-pyrazole-3,5-dicarboxylate
A mixture of diethyl-3,5-pyrazoledicarboxylate (1.0 g, 4.71 mmol), 3-bromophenylboronicacid (1.89 g, 9.42 mmol) and di-Micron-hydroxo-bis[(N,N,N′,N′-tetramethylethylenediamine)copper(II)]chloride (0.21 g, 0.47 mmol) in dichloromethane (22 mL) was stirred under air for 36 hours under air. It was filtered over a short silica gel pad, concentrated and purified by column chromatography (hexanes:ethyl acetate; 90:10) to yield 1.45 g (85%) of the product as a white solid.

reactant | diethyl-3,5-pyrazoledicarboxylate | 4.71 mmol, 1.0 g | C(C)OC(=O)C1=NNC(=C1)C(=O)OCC | C9H12N2O4
reactant | 3-bromophenylboronicacid | 9.42 mmol, 1.89 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | Diethyl-1-(3-bromophenyl)-1H-pyrazole-3,5-dicarboxylate | 1.45 g, 85% | C(C)OC(=O)C1=NN(C(=C1)C(=O)OCC)C1=CC(=CC=C1)Br | C15H15BrN2O4
